US04182766
11.5 g of 2,5-dimethylpyridine-N-oxide in 5 ml of acetic acid were added dropwise to 18 ml of acetic anhydride pre-heated to 120°. The reaction solution was boiled under reflux for a further 45 minutes, concentrated by evaporation on a rotary evaporator, and distilled at 8 mm Hg/115°. 14.0 g of 2-acetoxymethyl-5-methylpyridine was obtained.

reactant | 2,5-dimethylpyridine-N-oxide | 11.5 g | CC1=[N+](C=C(C=C1)C)[O-] | C7H9NO
reactant | acetic anhydride | 18 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-acetoxymethyl-5-methylpyridine | 14.0 g | C(C)(=O)OCC1=NC=C(C=C1)C | C9H11NO2
